US04250096
A mixture of 2.4 g (0.007 mol) of 1-(3-nitrophthalimidyl)-7-hydroxynaphthalene and 0.52 g (0.008 mol) of sodium azide in 14 ml of dimethylsulphoxide is stirred for 24 hours at 80° C. 100 ml of water are added to the solution. The crystals which have precipitated are filtered off with suction, washed with water and dried at 80° C./100 mm Hg. 1.7 g (73.6% of theory) of 1-(3-azidophthalimidyl)-7-hydroxynaphthalene are obtained; melting point 154° C. (with decomposition). IR spectrum (KBr): 1775 and 1720 cm-1 (CO--N--CO); 2130 cm-1 (N3).

reactant | 1-(3-nitrophthalimidyl)-7-hydroxynaphthalene | 0.007 mol, 2.4 g | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)C2=CC=CC3=CC=C(C=C23)O)=CC=C1 | C18H10N2O5
reactant | sodium azide | 0.008 mol, 0.52 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | dimethylsulphoxide | 14 ml | CS(=O)C | C2H6OS
product | 1-(3-azidophthalimidyl)-7-hydroxynaphthalene | 1.7 g, 73.6% | N(=[N+]=[N-])C1=C2C(C(=O)N(C2=O)C2=CC=CC3=CC=C(C=C23)O)=CC=C1 | C18H10N4O3
